US07625903B2
2,4-Dichloro-5-methylpyrimidine (28.1 g, 4172 mmol), ethyl 2-aminobenzoate (26.7 mL, 181 mmol), diisopropylethylamine (33 mL, 190 mmol) and ethanol (200 mL) were mixed together then equally divided and placed in two 350 mL pressure vessels. They were then capped and heated to 130° C. for three days. Upon cooling to room temperature, the precipitated product was collected and washed with ethanol followed by hexanes and then dried to give 4.5 g (9%) of ethyl 2-[(2-chloro-5-methyl-4-pyrimidinyl)amino]benzoate as an off-white solid. MS: M(C14H14ClN3O2)=291.7, (M+H)+=292.2 and 294.2.

reactant | 2,4-Dichloro-5-methylpyrimidine | 4172 mmol, 28.1 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | ethyl 2-aminobenzoate | 181 mmol, 26.7 mL | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | diisopropylethylamine | 190 mmol, 33 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 2-[(2-chloro-5-methyl-4-pyrimidinyl)amino]benzoate | 4.5 g, 9% | ClC1=NC=C(C(=N1)NC1=C(C(=O)OCC)C=CC=C1)C | C14H14ClN3O2
